### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2025-12-04

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Order/Floor/Ring.lean [hunk 1]
```diff
@@ -288,18 +288,6 @@ theorem floor_div_cast_of_nonneg {n : ℤ} (hn : 0 ≤ n) (a : k) : ⌊a / n⌋
...
-
-lemma mul_cast_floor_div_cancel_of_pos {n : ℤ} (hn : 0 < n) (a : k) : ⌊a * n⌋ / n = ⌊a⌋ := by
-  rw [mul_comm, cast_mul_floor_div_cancel_of_pos hn]
-
-theorem natCast_mul_floor_div_cancel {n : ℕ} (hn : n ≠ 0) (a : k) : ⌊n * a⌋ / n = ⌊a⌋ := by
-  simpa using cast_mul_floor_div_cancel_of_pos (n := n) (by lia) a
-
-theorem mul_natCast_floor_div_cancel {n : ℕ} (hn : n ≠ 0) {a : k} : ⌊a * n⌋ / n = ⌊a⌋ := by
-  rw [mul_comm, natCast_mul_floor_div_cancel hn]
-
```
Comment (kim-em) [inline Mathlib/Algebra/Order/Floor/Ring.lean:302]: As discussed yesterday these exist elsewhere in the file, this is repairing a bad merge.

File: Mathlib/Algebra/Order/Group/Unbundled/Int.lean [hunk 2]
```diff
@@ -94,6 +94,11 @@ lemma abs_sub_lt_of_lt_lt {m a b : ℕ} (ha : a < m) (hb : b < m) : |(b : ℤ) -
 theorem ediv_eq_zero_of_lt_abs {a b : ℤ} (H1 : 0 ≤ a) (H2 : a < |b|) : a / b = 0 :=
   match b, |b|, abs_eq_natAbs b, H2 with
   | (n : ℕ), _, rfl, H2 => ediv_eq_zero_of_lt H1 H2
+  | -[n+1], _, rfl, H2 => neg_injective <| by rw [← Int.ediv_neg]; exact ediv_eq_zero_of_lt H1 H2
+
+/-! #### mod -/
+
+@[simp]
```
Comment (kim-em) [inline Mathlib/Algebra/Order/Group/Unbundled/Int.lean:101]: Again, repairing a bad merge.

File: Mathlib/CategoryTheory/Filtered/Small.lean [hunk 3]
```diff
@@ -105,10 +105,10 @@ theorem small_fullSubcategory_filteredClosure :
   induction h with
   | base x =>
       refine ⟨⟨0, ?_⟩, ?_⟩
-      · simp only [FilteredClosureSmall.bundledAbstractFilteredClosure]
+      · simp -implicitDefEqProofs only [FilteredClosureSmall.bundledAbstractFilteredClosure]
         exact ULift.up x
       · simp only [FilteredClosureSmall.abstractFilteredClosureRealization]
-        rw! [FilteredClosureSmall.bundledAbstractFilteredClosure]
+        rw! [FilteredClosureSmall.bundledAbstractFilteredClosure.eq_1]
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Filtered/Small.lean]: I think we need #adaption_notes here. Not sure who added these yet.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean [hunk 4]
```diff
@@ -222,8 +222,13 @@ lemma card_parts_le [DecidableEq V] : #h.finpartition.parts ≤ r := by
     contrapose! hn
     exact hz.injOn hv hw (by rwa [← h.not_adj_iff_part_eq])
   rw [Finset.card_eq_of_equiv hz.equiv] at ncf
+  exact absurd (h.1.mono (Nat.succ_le_of_lt l)) ncf
+
+/-- There are `min n r` parts in a graph on `n` vertices satisfying `G.IsTuranMaximal r`.
+`min` handles the `n < r` case, when `G` is complete but still `r + 1`-cliquefree
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean:228]: Fixing a bad merge.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean [hunk 5]
```diff
@@ -222,8 +222,13 @@ lemma card_parts_le [DecidableEq V] : #h.finpartition.parts ≤ r := by
...
 for having insufficiently many vertices. -/
 theorem card_parts [DecidableEq V] : #h.finpartition.parts = min (card V) r := by
+  set fp := h.finpartition
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean:231]: Not sure about this?

File: Mathlib/GroupTheory/Congruence/Basic.lean [hunk 6]
```diff
@@ -6,6 +6,7 @@ Authors: Amelia Livingston
 module
 
 public import Mathlib.Algebra.Group.Submonoid.Operations
+import all Mathlib.Algebra.Group.Submonoid.Operations
```
Comment (b-mehta) [inline Mathlib/GroupTheory/Congruence/Basic.lean:9]: This looks like something isn't quite right?

File: Mathlib/CategoryTheory/Filtered/Small.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/CategoryTheory/Filtered/Small.lean]: Done.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean (hunk 5 above)
Comment (kim-em) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean:231]: Fixing a bad merge

File: Mathlib/GroupTheory/Congruence/Basic.lean (hunk 6 above)
Comment (kim-em) [reply Mathlib/GroupTheory/Congruence/Basic.lean:9]: Seems okay to remove 🤷‍♀️

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
I guess we don't actually have bors here. :-)
